US05891909
b) 2-Cyano-5-methylbenzenesulfonyl chloride
To a solution of 2-amino-4-methylbenzonitrile (2.65 g, 20 mmol), as prepared in the preceding step, in 30% aqueous HCl (7 mL) was added 40% aqueous sodium nitrite (6 mL) at 0°-5° C. After 15 minute, to the diazo solution were added 30% HCl (15 mL), copper sulfate (100 mg) and 40% aqueous sodium bisulfite (15 mL) at 5°-10° C. The mixture was stirred for 30 minute, then additional water (50 mL) was added. The mixture was extracted into dichloromethane (3×50 mL), and the dichloromethane solution was washed with brine (50 mL) and dried over Na2SO4. After removing the solvent in vacuo, the residue was purified by flash column chromatography (2:1 dichloromethane/hexane) to give the title compound as a white solid (2.1 g, 52%). 1H-NMR (300 MHz, CDCl3) δ 8.03 (s, 1H), 7.87 (d, J=7.8 Hz, 1H), 7.66 (d, J=7.8 Hz, 1H), 2.59 (s, 3H).

reactant | 2-amino-4-methylbenzonitrile | 20 mmol, 2.65 g | NC1=C(C#N)C=CC(=C1)C | C8H8N2
reactant | sodium nitrite | 6 mL | N(=O)[O-].[Na+]
reactant | sodium bisulfite | 15 mL | S([O-])(O)=O.[Na+]
reactant | water | 50 mL | O | H2O
reactant | HCl | 7 mL | Cl | ClH
reactant | HCl | 15 mL | Cl | ClH
catalyst | copper sulfate | 100 mg | S(=O)(=O)([O-])[O-].[Cu+2]
product | 2-Cyano-5-methylbenzenesulfonyl chloride | 2.1 g, 52% | C(#N)C1=C(C=C(C=C1)C)S(=O)(=O)Cl | C8H6ClNO2S
